US05091387
2-(1H-indene-1-yl)acetaldehyde (1.5 g, 9.5 mmol), hydroxylamine hydrochloride (836 mg, 12.0 mmol), and sodium acetate (1.04 g, 12.7 mmol) were combined in methanol (50 ml) and stirred at ambient temperature overnight. The mixture was evaporated to dryness in vacuo and the residue treated with water and extracted with ether. The ether layer was washed with water, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on a silica gel coulmn eluted with 15% EtOAc in hexane followed by 22% EtOAc in hexane. The product fraction was evaporated to dryness in vacuo to provide 2-(1H-indene-1-yl)acetaldoxime.

reactant | 2-(1H-indene-1-yl)acetaldehyde | 9.5 mmol, 1.5 g | C1(C=CC2=CC=CC=C12)CC=O | C11H10O
reactant | hydroxylamine hydrochloride | 12.0 mmol, 836 mg | Cl.NO
reactant | sodium acetate | 12.7 mmol, 1.04 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(1H-indene-1-yl)acetaldoxime | C1(C=CC2=CC=CC=C12)CC=NO | C11H11NO
